US05102877
To a solution of trimethylsilylacetylene (17 ml) in tetrahydrofuran (100 ml) were added successively a solution of n-butyllithium in n-hexane (1.50M, 81 ml) and a solution of 1-acetyl-4-piperidone (11.5 g) in tetrahydrofuran (15 ml) at -78° C. After stirring at -78° C. for 30 minutes, to the mixture was added acetic acid (5.0 ml) and the resultant mixture was taken up into a mixture of aqueous ammonium chloride (300 ml) and ethyl acetate (300 ml) at 0° C. The organic layer was separated and washed with brine, dried over magnesium sulfate. Evaporation of the solvent gave a crystalline which was collected by filtration, and washed with n-hexane to give 1-acetyl-4-hydroxy-4-(2-trimethylsilylethynyl)piperidine (14.48 g).

reactant | trimethylsilylacetylene | 17 ml | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-acetyl-4-piperidone | 11.5 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.50M, 81 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 1-acetyl-4-hydroxy-4-(2-trimethylsilylethynyl)piperidine | 14.48 g | C(C)(=O)N1CCC(CC1)(C#C[Si](C)(C)C)O | C12H21NO2Si
